US03968231
B. 7-chloro-4-phenyl-2-i-propyl-1,2,3,4-tetrahydropyrrolo[3,4-b]indole hydrochloride
A mixture of 7.8 g. (33.2 m moles) of 7-chloro-2-i-propyl-1,2,3,4-tetrahydropyrrolo[3,4-b]indole, 18.23 g. (0.116 mole) of bromobenzene, 10.4 g. (0.0364 mole) of cuprous bromide and 4.51 g. (0.0364 mole) of sodium carbonate in 125 ml. of N-methyl-2-pyrrolidinone is heated under a nitrogen atmosphere at an internal temperature of 184° C. for 9 hrs. The mixture is cooled, decanted into 300 ml. of water containing 30 ml. of ethylene diamine and sodium chloride and extracted with benzene. The combined extracts are back-washed with a saturated brine solution, dried over magnesium sulfate and concentrated in vacuo.

reactant | 7-chloro-2-i-propyl-1,2,3,4-tetrahydropyrrolo[3,4-b]indole | ClC1=CC=2C3=C(NC2C=C1)CN(C3)C(C)C | C13H15ClN2
reactant | bromobenzene | 0.116 mole | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium carbonate | 0.0364 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 7-chloro-4-phenyl-2-i-propyl-1,2,3,4-tetrahydropyrrolo[3,4-b]indole hydrochloride | Cl.ClC1=CC=2C3=C(N(C2C=C1)C1=CC=CC=C1)CN(C3)C(C)C | InChI=1S/C19H19ClN2.ClH/c1-13(2)21-11-17-16-10-14(20)8-9-18(16)22(19(17)12-21)15-6-4-3-5-7-15;/h3-10,13H,11-12H2,1-2H3;1H
